US06022906
22a 2-Bromo-1-(4-methylthiophenyl)-2-methylpropan-1-one
149.2 g (0.77 mol) of 2-methyl-1-[4-(methylthio)-phenyl]-propan-1-one, prepared by acylating thioanisol (as is described in EP-A-3002), are dissolved in 770 ml of methylene chloride. 0.2 ml of chlorosulfonic acid and 123.0 g (0.77 mol) of bromine are added dropwise slowly to this solution, with cooling, at room temperature. After stirring overnight, the solution is concentrated and is then reacted further as described below.

reactant | 2-methyl-1-[4-(methylthio)-phenyl]-propan-1-one | 0.77 mol, 149.2 g | CC(C(=O)C1=CC=C(C=C1)SC)C | C11H14OS
reactant | thioanisol | C1(=CC=CC=C1)SC | C7H8S
reactant | A-3002 | CC(C)(C1=CC=C(C=C1)OCC(COC(=O)C=C)O)C2=CC=C(C=C2)OCC(COC(=O)C=C)O | C27H32O8
reactant | chlorosulfonic acid | 0.2 ml | ClS(=O)(=O)O | ClHO3S
reactant | bromine | 0.77 mol, 123.0 g | BrBr | Br2
solvent | methylene chloride | 770 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-1-(4-methylthiophenyl)-2-methylpropan-1-one | BrC(C(=O)C1=CC=C(C=C1)SC)(C)C | C11H13BrOS
